US05530119
4-Bromopyridine hydrochloride (2.25 g, 11.61 mmol) and piparazine (5 g, 58.05 mmol) were dissolved in 10 mL of absolute ethanol and replaced into a sealed tube. It was kept in 95° C. oil bath for 5 hours and allowed to stand at room temperature for one over night. The white precipitate was filtered off, washed with a small amount of cold ethanol, and the filtrate was concentrated in vacuo to obtain 1-[4-pyridyl]piperazine hydrobromide hydrochloride salt with a contamination of unreacted piperazine. MS m/z M+H=165. H1 -NMR (in CDCl3) δ=2.95 (m, 4H), 3.36 (t, 4H), 6.82 (2H, aromatic), 8.10 (2H, aromatic). The obtained 1-[4-pyridyl]piperazine hydrobromide hydrochloride salt (1.0 g) was dissolved in 50 mL of 3N sodium hydroxide aqueous solution and stirred at room temperature for 15 minutes. The product was extracted with ethyl acetate (50 mL×3) and the combined ethyl acetate layer was washed with brine (50 mL×2), dried over anhydrous sodium sulfate. The solvent was removed in vacuo to obtain 450 mg of 1-[4-pyridyl]piperazine in 77% yield. MS m/z M+H=165. H1 -NMR (in CDCl3) δ=3.00 (m, 4H), 3.30 (t, 4H), 6.65 (2H, aromatic), 8.25 (2H, aromatic). Following the procedure of Example 6, but replacing 1-benzylpiperazine with 1-[4-pyridyl]piperazine, provides the desired compound. The product of Example 3 (2.1 g, 2.03 mmol), 1-[4-pyridyl]piperazine (999 mg, 6.09 mmol), and triethylamine (0.85 mL, 6.09 mmol) in 10 mL of methylene chloride are used. The obtained product (1.2 g, 1.13 mmol) is treated with 48%-HF (4 mL) in 35 mL of acetonitrile in the procedure described in Example 5 to yield the pure title compound.

reactant | 1-[4-pyridyl]piperazine hydrobromide hydrochloride salt | 1.0 g | Cl.Br.N1=CC=C(C=C1)N1CCNCC1
solvent | sodium hydroxide | 3N, 50 mL | [OH-].[Na+]
product | 1-[4-pyridyl]piperazine | 450 mg, 77% yield | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
